US09303023B2
To N-(1H-pyrazol-4-yl)-5-(m-tolyl)oxazole-4-carboxamide (150 mg, 0.56 mmol) in DMF (1.5 mL), tert-butyl 2-(bromomethyl)pyrrolidine-1-carboxylate (148 mg, 0.56 mmol) was added and K2CO3 (309 mg, 2.24 mmol) followed by tetrabutylammoniumbromide (18 mg, 0.056 mmol). The reaction mixture was heated to 80° C. for 2 h, then tert-butyl 2-(bromomethyl)pyrrolidine-1-carboxylate (1 eq.) followed by heating to 90° C. for 6 h. The reaction mixture was diluted with EtOAc, washed with sat. aq. NaHCO3-solution (1×) and brine (1×). The aq. layers were reextracted with EtOAc (1×). The combined organic layers were dried (MgSO4), filtered and the solvent was removed under reduced pressure. Purification by FC (EtOAc/hex 9:1, Rf=0.45) yielded rac-tert-butyl 2-((4-(5-(m-tolyl)oxazole-4-carboxamido)-1H-pyrazol-1-yl)methyl)pyrrolidine-1-carboxylate as a yellow foam. LC-MS conditions A: tR=0.94 min, [M+H]+=452.23.

reactant | N-(1H-pyrazol-4-yl)-5-(m-tolyl)oxazole-4-carboxamide | 0.56 mmol, 150 mg | N1N=CC(=C1)NC(=O)C=1N=COC1C=1C=C(C=CC1)C | C14H12N4O2
reactant | tert-butyl 2-(bromomethyl)pyrrolidine-1-carboxylate | 0.56 mmol, 148 mg | BrCC1N(CCC1)C(=O)OC(C)(C)C | C10H18BrNO2
reactant | K2CO3 | 2.24 mmol, 309 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | tert-butyl 2-(bromomethyl)pyrrolidine-1-carboxylate | 1 eq. | BrCC1N(CCC1)C(=O)OC(C)(C)C | C10H18BrNO2
solvent | DMF | 1.5 mL | CN(C)C=O | C3H7NO
catalyst | tetrabutylammoniumbromide | 0.056 mmol, 18 mg | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | rac-tert-butyl 2-((4-(5-(m-tolyl)oxazole-4-carboxamido)-1H-pyrazol-1-yl)methyl)pyrrolidine-1-carboxylate | C1(=CC(=CC=C1)C1=C(N=CO1)C(=O)NC=1C=NN(C1)CC1N(CCC1)C(=O)OC(C)(C)C)C | C24H29N5O4
